US04853476
N-[(S)2-[(ethoxyethylphosphinyl)oxy]-1-oxo-3-phenylpropyl]β-alanine (phenylmethyl) ester;
N-[(S)2-[(ethylhydroxyphosphinyl)oxy]-1-oxo-3-phenylpropyl]β-alanine, calcium salt thereof;

reactant | N-[(S)2-[(ethylhydroxyphosphinyl)oxy]-1-oxo-3-phenylpropyl]β-alanine | C(C)P(=O)(O[C@H](C(=O)NCCC(=O)O)CC1=CC=CC=C1)O | C14H20NO6P
reactant | calcium | [Ca] | Ca
product | N-[(S)2-[(ethoxyethylphosphinyl)oxy]-1-oxo-3-phenylpropyl]β-alanine (phenylmethyl) ester | C1(=CC=CC=C1)COC(CCNC([C@H](CC1=CC=CC=C1)OP(=O)CCOCC)=O)=O | C23H30NO6P
